US05334602
2-[2-Methoxy-3-(tert.-butyloxycarbonyl-propylamino)-propoxy]-3-phenyl-propiophenone
5 g. (11.3 mMol) 2-[2-hydroxy-3-(tert.-butyloxycarbonyl-propylamino)-propoxy]-3-phenyl-propiophenone are dissolved in 50 ml. abs. DMF and mixed at 0° C. with 0.30 g. (12.5 mMol) sodium hydride. Thereafter, it is stirred for 70 minutes at room temperature. Subsequently, the reaction mixture is cooled to 0° C. and a solution of 1.60 g. (12.5 mMol) dimethyl sulphate in 5 ml. absolute DMF added dropwise thereto. After 40 minutes at 0° to 5° C., the reaction mixture is emptied into 2N HCl. The phases are separated and the H2O phase extracted three times with CH2Cl2. The combined organic phases are after drying over Na2SO4, evaporated. There are obtained 4.5 g. of an orange oil which is purified column chromatographically. Column chromatography: silica gel, Bz:EE=14:1. The purified oil crystallises in a low-cooling cabinet.

reactant | 2-[2-hydroxy-3-(tert.-butyloxycarbonyl-propylamino)-propoxy]-3-phenyl-propiophenone | 11.3 mMol | OC(COC(C(=O)C1=CC=CC=C1)CC1=CC=CC=C1)CN(CCC)C(=O)OC(C)(C)C | C26H35NO5
reactant | sodium hydride | 12.5 mMol | [H-].[Na+]
reactant | dimethyl sulphate | 12.5 mMol | S(=O)(=O)(OC)OC | C2H6O4S
reactant | HCl | 2N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[2-Methoxy-3-(tert.-butyloxycarbonyl-propylamino)-propoxy]-3-phenyl-propiophenone | COC(COC(C(=O)C1=CC=CC=C1)CC1=CC=CC=C1)CN(CCC)C(=O)OC(C)(C)C | C27H37NO5
